US05442063
Toluene (20 ml) and a 50% aqueous solution (0.71 ml, 12 mmol) of hydroxylamine were added to N-methyl-2-(2-phenoxyphenyl)-2-oxoacetamide (2.55 g, 10 mmol). The mixture was heated under reflux for 4 hours (E/Z=40/60). After cooling, conc. hydrochloric acid (3.0 ml, 30 mmol) was added, and the mixture was stirred at room temperature for 24 hours. After completion of the reaction, the resulting crystals were separated by filtration, washed with water and toluene and dried to give (E)-N-methyl-2-(2-phenoxyphenyl)-2-hydroxyiminoacetamide (2.65 g, Yield: 98.0%, E/Z=98/2).

reactant | hydroxylamine | NO | H3NO
reactant | N-methyl-2-(2-phenoxyphenyl)-2-oxoacetamide | 10 mmol, 2.55 g | CNC(C(=O)C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H13NO3
reactant | hydrochloric acid | 30 mmol, 3.0 ml | Cl | ClH
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-N-methyl-2-(2-phenoxyphenyl)-2-hydroxyiminoacetamide | 2.65 g, Yield: 98.0% | CNC(/C(=N/O)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H14N2O3
